US07176242B2
N-{(1S,2R)-1-(3,5-Difluorobenzyl)-3-[(3-ethylbenzyl)amino]-2-hydroxypropyl}-4-(1,3-oxazol-2-yl)benzamide
To a solution of 4-(1,3-oxazol-2-yl)benzoic acid (105 mg, 0.6 mmol), (2R,3S)-3-amino-4-(3,5-difluorophenyl)-1-[(3-ethylbenzyl)amino]butan-2-ol dihydrochloride (220 mg, 0.6 mmol), and HATU (210 mg, 0.6 mmol) stirring in methylene chloride (5 mL) is added N,N-diisopropylethylamine (340 μL, 1.9 mmol). The reaction mixture is stirred at room temperature for 18 h. The reaction mixture is partitioned between methylene chloride and water. The organic layer is washed with water, dried (sodium sulfate), filtered, and concentrated under reduced pressure to afford a crude solid. Purification by flash column chromatography (silica, gradient 96:4 to 93:7 methylene chloride/methanol) provided the title compound. ESI MS m/z 506.2 [M+H]+.

reactant | 4-(1,3-oxazol-2-yl)benzoic acid | 0.6 mmol, 105 mg | O1C(=NC=C1)C1=CC=C(C(=O)O)C=C1 | C10H7NO3
reactant | (2R,3S)-3-amino-4-(3,5-difluorophenyl)-1-[(3-ethylbenzyl)amino]butan-2-ol dihydrochloride | 0.6 mmol, 220 mg | Cl.Cl.N[C@H]([C@@H](CNCC1=CC(=CC=C1)CC)O)CC1=CC(=CC(=C1)F)F
reactant | HATU | 0.6 mmol, 210 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | N,N-diisopropylethylamine | 1.9 mmol, 340 μL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | methylene chloride | 5 mL | C(Cl)Cl | CH2Cl2
product | N-{(1S,2R)-1-(3,5-Difluorobenzyl)-3-[(3-ethylbenzyl)amino]-2-hydroxypropyl}-4-(1,3-oxazol-2-yl)benzamide | FC=1C=C(C[C@@H]([C@@H](CNCC2=CC(=CC=C2)CC)O)NC(C2=CC=C(C=C2)C=2OC=CN2)=O)C=C(C1)F | C29H29F2N3O3
